US05403842
1-(2-hydroxy-2-methylpropyl)-4-(2-methoxyphenyl)-piperazine (Intermediate XXVIII)
A mixture of 7 g of 1-(2-methoxyphenyl)-piperazine, 7.33 g of anhydrous potassium carbonate, 1.75 g of potassium iodide and 5.6 ml of 1-chloro-2-methyl-2-propanol was stirred for 90 minutes at 70° C. and for a further 6 hours at 90° C. The reaction mixture was poured into iced water and extracted with ethyl acetate. The organic layer was washed with aqueous sodium chloride solution, dried on anhydrous sodium sulfate and evaporated to dryness in vacuo. The title product was obtained as an oil, and was characterized as its dihydrochloride, crystallized from ethanol, melting at 225°-227° C.

reactant | 1-(2-methoxyphenyl)-piperazine | 7 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | potassium carbonate | 7.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.75 g | [I-].[K+]
reactant | 1-chloro-2-methyl-2-propanol | 5.6 ml | ClCC(C)(O)C | C4H9ClO
solvent | water | O | H2O
product | 1-(2-hydroxy-2-methylpropyl)-4-(2-methoxyphenyl)-piperazine | OC(CN1CCN(CC1)C1=C(C=CC=C1)OC)(C)C | C15H24N2O2
